US04394070
Preparation of the intermediate (+)-N-camphanyl-α-naphthylamine
Camphor (10 gm), 9.4 gm α-naphthylamine, 0.1 gm α-naphthylamine-HCl and 30 gm 1 A molecular sieves were added to 40 ml anhydrous methanol. Sodium cyanoborohydride (2.5 gm) was added dropwise and stirred under N2 for 48 hours. The sieves were removed by filtration and 5 drops of concentrated HCl were added to the filtrate until it was acidic (pH>7). The solvent was stripped by boiling and 10 gm potassium hydroxide was added to the remaining mixture. The aqueous phase was extracted with ether over potassium carbonate. The extractions were filtered to remove the potassium carbonate. After the ether was evaporated, the mixture was distilled under high vacuum. The material boiling at 120° C. and 0.1 mm of mercury was collected. IR spectra verified that this material was the product.

reactant | Camphor | 10 gm | C12(C(=O)CC(CC1)C2(C)C)C | C10H16O
reactant | α-naphthylamine | 9.4 gm | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | α-naphthylamine-HCl | 0.1 gm | Cl.C1(=CC=CC2=CC=CC=C12)N
reactant | Sodium cyanoborohydride | 2.5 gm | C(#N)[BH3-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | (+)-N-camphanyl-α-naphthylamine | C12(C(CC(CC1)C2(C)C)NC2=CC=CC1=CC=CC=C21)C | C20H25N
